US05580751
Preparation of Z-Gly-Ala-Pro-NH2 by transpeptidation and photolytic cleavage
Z-Gly-Ala-Pro-2-nitrophenylglycine (SEQ ID NO:13) amide (0.025 mmol) in MeOH (12.5 ml) was added to 80 mM NaHSO3 (12.5 ml) and pH was adjsuted to 9.5 with 5N NaOH. The reaction mixture was purged with N2 for 15 min and subsequently photolyzed under nitrogen cover at a distance of 20 cm from the SP 200 lamp through Pyrex. The photolysis was followed by extraction of samples at 0, 30, 60 and 120 min. Each sample was analyzed using HPLC system-5 and the results compared with those from the 0 min sample as well as with the results from the CPD-Y hydrolysis and the transpeptidation mixture. Purification and identification were performed as previously described.

reactant | Z-Gly-Ala-Pro 2-nitrophenylglycine | N(CC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1.[N+](=O)([O-])C1=C(C=CC=C1)NCC(=O)O
reactant | NaHSO3 | 80 mM, 12.5 ml | OS(=O)[O-].[Na+]
reactant | NaOH | 5N | [OH-].[Na+]
solvent | MeOH | 12.5 ml | CO | CH4O
product | Z-Gly-Ala-Pro-NH2 | N(CC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C18H24N4O5
